US06057322
c) Methyl 2-chloro-4-(4-(2-dimethylaminoethyl)phenoxy)-5-methylsulfonyl-benzoate
534 mg of methyl 2-chloro-4-fluoro-5-methylsulfonylbenzoate, 331 mg of 4-(2-dimethylaminoethyl)phenol and 2.0 g of Cs2CO3 were dissolved in 10 ml of NMP and the mixture was stirred at 100° C. for 3 hours. The reaction mixture was poured onto 150 ml of a saturated aqueous NaHCO3 solution and extracted 3 times using 100 ml of EA each time. The organic phase was dried over Na2SO4 and the solvent was removed in vacuo. Chromatography on silica gel using EA/MeOH 3:1 yields 240 mg of a viscous oil.

reactant | methyl 2-chloro-4-fluoro-5-methylsulfonylbenzoate | 534 mg | ClC1=C(C(=O)OC)C=C(C(=C1)F)S(=O)(=O)C | C9H8ClFO4S
reactant | 4-(2-dimethylaminoethyl)phenol | 331 mg | CN(CCC1=CC=C(C=C1)O)C | C10H15NO
reactant | Cs2CO3 | 2.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | 150 ml | C(=O)(O)[O-].[Na+]
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | Methyl 2-chloro-4-(4-(2-dimethylaminoethyl)phenoxy)-5-methylsulfonyl-benzoate | 240 mg | ClC1=C(C(=O)OC)C=C(C(=C1)OC1=CC=C(C=C1)CCN(C)C)S(=O)(=O)C | C19H22ClNO5S
